US06184242B2
A mixture of 2,2,2-trifluoro-N-[4-(1-piperidinesulfonylpiperidin-4-ylmethyl)-phenyl]acetamide (0.48 g, 1.11 mmol) and lithium hydroxide (0.23 g, 5.54 mmol) in methanol (10 mL) and water (1 mL) was heated at 60° C. for about 2 hours. The reaction mixture was concentrated in vacuo, diluted with water, and extracted with dichloromethane. The organic extracts were washed with water and brine, and dried (Na2SO4). The residue was crystallized from ethyl acetate/hexanes, to give 4-(1-piperidinesulfonylpiperidin-4-ylmethyl)-phenylamine (0.30 g) as a white solid, m.p. 144-145° C.; Analysis for C17H27N3O2S: Calc.: C, 60.50; H, 8.06; N, 12.45; Found: C, 60.76; H, 8.07; N, 12.56.

reactant | 2,2,2-trifluoro-N-[4-(1-piperidinesulfonylpiperidin-4-ylmethyl)-phenyl]acetamide | 1.11 mmol, 0.48 g | FC(C(=O)NC1=CC=C(C=C1)CC1CCN(CC1)S(=O)(=O)N1CCCCC1)(F)F | C19H26F3N3O3S
reactant | lithium hydroxide | 5.54 mmol, 0.23 g | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 4-(1-piperidinesulfonylpiperidin-4-ylmethyl)-phenylamine | 0.30 g | N1(CCCCC1)S(=O)(=O)N1CCC(CC1)CC1=CC=C(C=C1)N | C17H27N3O2S
